US07323474B2
Under a N2 atmosphere, 600 mg (4.25 mmol) of trans-4-isopropyl-cyclo-hexylamine [for preparation see Arzneim. Forsch. 19 (1969), 140] and 120 mg (0.424 mmol) of 1-chloro[2-(6-methyl-pyridin-3-yl)-ethyl]-isoquinoline are heated to 140° C. in an ampulla for 10 h. The reaction mixture is suspended in EtOAc, and mixed with 0.25 ml of NH3 solution (25%) and water. The separated aqueous phase is extracted twice more with EtOAc, the organic phases washed with water and brine, dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2; hexane/EtOAc 1:1) yields trans 1-(4-isopropyl-cyclohexylamino)-4-[2-(6-methyl-pyridin-3-yl)-ethyl]-isoquinoline; 1H NMR (DMSO-d6) δ 8.27 (m, 2H), 7.88 (d, 1H), 7.65 (t, 1H), 7.60 (s, 1H), 7.54 (m, 1H), 7.14 (d, 1H), 6.84 (d, 1H), 3.88 (m, 1H), 3.00 (m, 2H), 2.84 (m, 2H), 2.40 (s, 3H), 2.00 (m, 2H), 1.71 (m, 2H), 1.5-1.0 (m, 6H), 0.86 (d, 6H).

reactant | trans-4-isopropyl-cyclo-hexylamine | 4.25 mmol, 600 mg | C(C)(C)[C@@H]1CC[C@H](CC1)N | C9H19N
reactant | 1-chloro[2-(6-methyl-pyridin-3-yl)-ethyl]-isoquinoline | 0.424 mmol, 120 mg | ClC1=NC(=CC2=CC=CC=C12)CCC=1C=NC(=CC1)C | C17H15ClN2
reactant | NH3 | 0.25 ml | N | H3N
reactant | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | trans 1-(4-isopropyl-cyclohexylamino)-4-[2-(6-methyl-pyridin-3-yl)-ethyl]-isoquinoline | C(C)(C)[C@@H]1CC[C@H](CC1)NC1=NC=C(C2=CC=CC=C12)CCC=1C=NC(=CC1)C | C26H33N3
